* d:\esim_tut\files\alu\alu.cir

* u6  a a a a a a a a net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ adc_bridge_8
* u7  a a a a a a a a net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ adc_bridge_8
* u5  net-_u5-pad1_ net-_u5-pad2_ net-_u5-pad3_ net-_u5-pad4_ net-_u1-pad65_ net-_u1-pad66_ net-_u1-pad67_ net-_u1-pad68_ adc_bridge_4
* u14  net-_u1-pad69_ net-_u1-pad70_ net-_u1-pad71_ net-_u1-pad72_ net-_u1-pad73_ net-_u1-pad74_ net-_u1-pad75_ net-_u1-pad76_ o1 o2 o3 o4 o5 o6 o7 o8 dac_bridge_8
* u15  net-_u1-pad77_ net-_u1-pad78_ net-_u1-pad79_ net-_u1-pad80_ net-_u1-pad81_ net-_u1-pad82_ net-_u1-pad83_ net-_u1-pad84_ o9 o10 o11 o12 o13 o14 o15 o16 dac_bridge_8
* u16  net-_u1-pad85_ net-_u1-pad86_ net-_u1-pad87_ net-_u1-pad88_ net-_u1-pad89_ net-_u1-pad90_ net-_u1-pad91_ net-_u1-pad92_ o17 o18 o19 o20 o21 o22 o23 o24 dac_bridge_8
* u17  net-_u1-pad93_ net-_u1-pad94_ net-_u1-pad95_ net-_u1-pad96_ net-_u1-pad97_ net-_u1-pad98_ net-_u1-pad99_ net-_u1-pad100_ o25 o26 o27 o28 29 o30 o31 o32 dac_bridge_8
* u18  net-_u1-pad101_ over dac_bridge_1
* u8  b b b b b b b b net-_u1-pad17_ net-_u1-pad18_ net-_u1-pad19_ net-_u1-pad20_ net-_u1-pad21_ net-_u1-pad22_ net-_u1-pad23_ net-_u1-pad24_ adc_bridge_8
* u9  b b b b b b b b net-_u1-pad25_ net-_u1-pad26_ net-_u1-pad27_ net-_u1-pad28_ net-_u1-pad29_ net-_u1-pad30_ net-_u1-pad31_ net-_u1-pad32_ adc_bridge_8
* u10  c c c c c c c c net-_u1-pad33_ net-_u1-pad34_ net-_u1-pad35_ net-_u1-pad36_ net-_u1-pad37_ net-_u1-pad38_ net-_u1-pad39_ net-_u1-pad40_ adc_bridge_8
* u11  c c c c c c c c net-_u1-pad41_ net-_u1-pad42_ net-_u1-pad43_ net-_u1-pad44_ net-_u1-pad45_ net-_u1-pad46_ net-_u1-pad47_ net-_u1-pad48_ adc_bridge_8
* u12  d d d d d d d d net-_u1-pad49_ net-_u1-pad50_ net-_u1-pad51_ net-_u1-pad52_ net-_u1-pad53_ net-_u1-pad54_ net-_u1-pad55_ net-_u1-pad56_ adc_bridge_8
* u13  d d d d d d d d net-_u1-pad57_ net-_u1-pad58_ net-_u1-pad59_ net-_u1-pad60_ net-_u1-pad61_ net-_u1-pad62_ net-_u1-pad63_ net-_u1-pad64_ adc_bridge_8
v5  a gnd pulse(5 0 1m 1m 1m 40 160)
v6  b gnd pulse(5 0 1m 1m 1m 80 160)
v7  c gnd pulse(0 0 1m 1m 1m 100 160)
v8  d gnd pulse(0 0 1m 1m 1m 120 160)
v1  net-_u5-pad1_ gnd pulse(0 0 1m 1m 1m 40 160)
v2  net-_u5-pad2_ gnd pulse(0 0 1m 1m 1m 100 160)
v3  net-_u5-pad3_ gnd pulse(5 0 1m 1m 1m 80 160)
v4  net-_u5-pad4_ gnd pulse(0 0 1m 1m 1m 160 160)
* u1.1  a plot_v1
* u2  b plot_v1
* u3  c plot_v1
* u4  d plot_v1
* u19  o1 plot_v1
* u20  o2 plot_v1
* u21  o3 plot_v1
* u22  o4 plot_v1
* u23  o5 plot_v1
* u24  o6 plot_v1
* u25  o7 plot_v1
* u26  o8 plot_v1
* u27  o9 plot_v1
* u28  o10 plot_v1
* u29  o11 plot_v1
* u30  o12 plot_v1
* u31  o13 plot_v1
* u32  o14 plot_v1
* u33  o15 plot_v1
* u34  o16 plot_v1
* u35  o17 plot_v1
* u36  o18 plot_v1
* u37  o19 plot_v1
* u38  o20 plot_v1
* u39  o21 plot_v1
* u40  o22 plot_v1
* u41  o23 plot_v1
* u42  o24 plot_v1
* u43  o25 plot_v1
* u44  o26 plot_v1
* u45  o27 plot_v1
* u46  o28 plot_v1
* u47  29 plot_v1
* u48  o30 plot_v1
* u49  o31 plot_v1
* u50  o32 plot_v1
* u51  over plot_v1
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ net-_u1-pad18_ net-_u1-pad19_ net-_u1-pad20_ net-_u1-pad21_ net-_u1-pad22_ net-_u1-pad23_ net-_u1-pad24_ net-_u1-pad25_ net-_u1-pad26_ net-_u1-pad27_ net-_u1-pad28_ net-_u1-pad29_ net-_u1-pad30_ net-_u1-pad31_ net-_u1-pad32_ net-_u1-pad33_ net-_u1-pad34_ net-_u1-pad35_ net-_u1-pad36_ net-_u1-pad37_ net-_u1-pad38_ net-_u1-pad39_ net-_u1-pad40_ net-_u1-pad41_ net-_u1-pad42_ net-_u1-pad43_ net-_u1-pad44_ net-_u1-pad45_ net-_u1-pad46_ net-_u1-pad47_ net-_u1-pad48_ net-_u1-pad49_ net-_u1-pad50_ net-_u1-pad51_ net-_u1-pad52_ net-_u1-pad53_ net-_u1-pad54_ net-_u1-pad55_ net-_u1-pad56_ net-_u1-pad57_ net-_u1-pad58_ net-_u1-pad59_ net-_u1-pad60_ net-_u1-pad61_ net-_u1-pad62_ net-_u1-pad63_ net-_u1-pad64_ net-_u1-pad65_ net-_u1-pad66_ net-_u1-pad67_ net-_u1-pad68_ net-_u1-pad69_ net-_u1-pad70_ net-_u1-pad71_ net-_u1-pad72_ net-_u1-pad73_ net-_u1-pad74_ net-_u1-pad75_ net-_u1-pad76_ net-_u1-pad77_ net-_u1-pad78_ net-_u1-pad79_ net-_u1-pad80_ net-_u1-pad81_ net-_u1-pad82_ net-_u1-pad83_ net-_u1-pad84_ net-_u1-pad85_ net-_u1-pad86_ net-_u1-pad87_ net-_u1-pad88_ net-_u1-pad89_ net-_u1-pad90_ net-_u1-pad91_ net-_u1-pad92_ net-_u1-pad93_ net-_u1-pad94_ net-_u1-pad95_ net-_u1-pad96_ net-_u1-pad97_ net-_u1-pad98_ net-_u1-pad99_ net-_u1-pad100_ net-_u1-pad101_ alu1
a1 [a a a a a a a a ] [net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ ] u6
a2 [a a a a a a a a ] [net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ ] u7
a3 [net-_u5-pad1_ net-_u5-pad2_ net-_u5-pad3_ net-_u5-pad4_ ] [net-_u1-pad65_ net-_u1-pad66_ net-_u1-pad67_ net-_u1-pad68_ ] u5
a4 [net-_u1-pad69_ net-_u1-pad70_ net-_u1-pad71_ net-_u1-pad72_ net-_u1-pad73_ net-_u1-pad74_ net-_u1-pad75_ net-_u1-pad76_ ] [o1 o2 o3 o4 o5 o6 o7 o8 ] u14
a5 [net-_u1-pad77_ net-_u1-pad78_ net-_u1-pad79_ net-_u1-pad80_ net-_u1-pad81_ net-_u1-pad82_ net-_u1-pad83_ net-_u1-pad84_ ] [o9 o10 o11 o12 o13 o14 o15 o16 ] u15
a6 [net-_u1-pad85_ net-_u1-pad86_ net-_u1-pad87_ net-_u1-pad88_ net-_u1-pad89_ net-_u1-pad90_ net-_u1-pad91_ net-_u1-pad92_ ] [o17 o18 o19 o20 o21 o22 o23 o24 ] u16
a7 [net-_u1-pad93_ net-_u1-pad94_ net-_u1-pad95_ net-_u1-pad96_ net-_u1-pad97_ net-_u1-pad98_ net-_u1-pad99_ net-_u1-pad100_ ] [o25 o26 o27 o28 29 o30 o31 o32 ] u17
a8 [net-_u1-pad101_ ] [over ] u18
a9 [b b b b b b b b ] [net-_u1-pad17_ net-_u1-pad18_ net-_u1-pad19_ net-_u1-pad20_ net-_u1-pad21_ net-_u1-pad22_ net-_u1-pad23_ net-_u1-pad24_ ] u8
a10 [b b b b b b b b ] [net-_u1-pad25_ net-_u1-pad26_ net-_u1-pad27_ net-_u1-pad28_ net-_u1-pad29_ net-_u1-pad30_ net-_u1-pad31_ net-_u1-pad32_ ] u9
a11 [c c c c c c c c ] [net-_u1-pad33_ net-_u1-pad34_ net-_u1-pad35_ net-_u1-pad36_ net-_u1-pad37_ net-_u1-pad38_ net-_u1-pad39_ net-_u1-pad40_ ] u10
a12 [c c c c c c c c ] [net-_u1-pad41_ net-_u1-pad42_ net-_u1-pad43_ net-_u1-pad44_ net-_u1-pad45_ net-_u1-pad46_ net-_u1-pad47_ net-_u1-pad48_ ] u11
a13 [d d d d d d d d ] [net-_u1-pad49_ net-_u1-pad50_ net-_u1-pad51_ net-_u1-pad52_ net-_u1-pad53_ net-_u1-pad54_ net-_u1-pad55_ net-_u1-pad56_ ] u12
a14 [d d d d d d d d ] [net-_u1-pad57_ net-_u1-pad58_ net-_u1-pad59_ net-_u1-pad60_ net-_u1-pad61_ net-_u1-pad62_ net-_u1-pad63_ net-_u1-pad64_ ] u13
a15 [net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ net-_u1-pad18_ net-_u1-pad19_ net-_u1-pad20_ net-_u1-pad21_ net-_u1-pad22_ net-_u1-pad23_ net-_u1-pad24_ net-_u1-pad25_ net-_u1-pad26_ net-_u1-pad27_ net-_u1-pad28_ net-_u1-pad29_ net-_u1-pad30_ net-_u1-pad31_ net-_u1-pad32_ ] [net-_u1-pad33_ net-_u1-pad34_ net-_u1-pad35_ net-_u1-pad36_ net-_u1-pad37_ net-_u1-pad38_ net-_u1-pad39_ net-_u1-pad40_ net-_u1-pad41_ net-_u1-pad42_ net-_u1-pad43_ net-_u1-pad44_ net-_u1-pad45_ net-_u1-pad46_ net-_u1-pad47_ net-_u1-pad48_ net-_u1-pad49_ net-_u1-pad50_ net-_u1-pad51_ net-_u1-pad52_ net-_u1-pad53_ net-_u1-pad54_ net-_u1-pad55_ net-_u1-pad56_ net-_u1-pad57_ net-_u1-pad58_ net-_u1-pad59_ net-_u1-pad60_ net-_u1-pad61_ net-_u1-pad62_ net-_u1-pad63_ net-_u1-pad64_ ] [net-_u1-pad65_ net-_u1-pad66_ net-_u1-pad67_ net-_u1-pad68_ ] [net-_u1-pad69_ net-_u1-pad70_ net-_u1-pad71_ net-_u1-pad72_ net-_u1-pad73_ net-_u1-pad74_ net-_u1-pad75_ net-_u1-pad76_ net-_u1-pad77_ net-_u1-pad78_ net-_u1-pad79_ net-_u1-pad80_ net-_u1-pad81_ net-_u1-pad82_ net-_u1-pad83_ net-_u1-pad84_ net-_u1-pad85_ net-_u1-pad86_ net-_u1-pad87_ net-_u1-pad88_ net-_u1-pad89_ net-_u1-pad90_ net-_u1-pad91_ net-_u1-pad92_ net-_u1-pad93_ net-_u1-pad94_ net-_u1-pad95_ net-_u1-pad96_ net-_u1-pad97_ net-_u1-pad98_ net-_u1-pad99_ net-_u1-pad100_ ] [net-_u1-pad101_ ] u1
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u6 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u7 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_4, NgSpice Name: adc_bridge
.model u5 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, NgSpice Name: dac_bridge
.model u14 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, NgSpice Name: dac_bridge
.model u15 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, NgSpice Name: dac_bridge
.model u16 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, NgSpice Name: dac_bridge
.model u17 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u18 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u8 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u9 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u10 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u11 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u12 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u13 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             alu1, NgSpice Name: alu1
.model u1 alu1(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
.tran 0.1e-00 160e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(a)
plot v(b)
plot v(c)
plot v(d)
plot v(o1)
plot v(o2)
plot v(o3)
plot v(o4)
plot v(o5)
plot v(o6)
plot v(o7)
plot v(o8)
plot v(o9)
plot v(o10)
plot v(o11)
plot v(o12)
plot v(o13)
plot v(o14)
plot v(o15)
plot v(o16)
plot v(o17)
plot v(o18)
plot v(o19)
plot v(o20)
plot v(o21)
plot v(o22)
plot v(o23)
plot v(o24)
plot v(o25)
plot v(o26)
plot v(o27)
plot v(o28)
plot v(29)
plot v(o30)
plot v(o31)
plot v(o32)
plot v(over)
.endc
.end
